US07179823B1
A mixture of ethyl 1-benzyl-3-ethoxy-1H-pyrazol-4-ylacetate (7.50 g), 5% palladium-carbon (15.0 g), formic acid (50 ml) and ethanol (100 ml) was refluxed for 1 hour. After cooling, the palladium-carbon was removed by filtration, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, which was washed with saturated aqueous sodium bicarbonate solution, and with a saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-ethoxy-1H-pyrazol-4-ylacetate (2.79 g, yield 54%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | ethyl 1-benzyl-3-ethoxy-1H-pyrazol-4-ylacetate | 7.50 g | C(C1=CC=CC=C1)N1N=C(C(=C1)CC(=O)OCC)OCC | C16H20N2O3
reactant | formic acid | 50 ml | C(=O)O | CH2O2
catalyst | palladium-carbon | 15.0 g | [C].[Pd]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 3-ethoxy-1H-pyrazol-4-ylacetate | 2.79 g, yield 54% | C(C)OC1=NNC=C1CC(=O)OCC | C9H14N2O3
